US06436929B1
6-(3-Fluoro-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one was prepared, from 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one and 1-bromo-3-fluorobenzene according to the procedure of Example 4, as a light yellow solid: mp 181-182° C.; 1H-NMR (DMSO-d6) δ10.4 (s, 1H), 7.62-7.44 (m, 5H), 7.16 (t, 1H, J=2.22 Hz), 6.97 (d, 1H, J=8.83), 1.67 (s, 6H); MS (EI) m/z 271 ([M+H]+, 40%); Anal. Calc. For C16H14FNO2: C, 69.91; H, 5.3; N, 5.1. Found: C, 70.0; H, 5.32; N, 4.92.

reactant | 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | BrC1=CC2=C(NC(OC2(C)C)=O)C=C1 | C10H10BrNO2
reactant | 1-bromo-3-fluorobenzene | BrC1=CC(=CC=C1)F | C6H4BrF
product | 6-(3-Fluoro-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | FC=1C=C(C=CC1)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H14FNO2
